US04380546
2,2-Dimethyl-4-(1,2,4-triazol-1-yl)-6-phenoxy-hexan-3-one
2.6 g of sodium hydride, 16.7 g of 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-butan-3-one and 20.1 g of 1-bromo-2-phenoxyethane are reacted by a method similar to that of Example 1b.

reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-butan-3-one | 16.7 g | CC(C)(C(CN1N=CN=C1)=O)C | C8H13N3O
reactant | 1-bromo-2-phenoxyethane | 20.1 g | BrCCOC1=CC=CC=C1 | C8H9BrO
product | 2,2-Dimethyl-4-(1,2,4-triazol-1-yl)-6-phenoxy-hexan-3-one | CC(C)(C(C(CCOC1=CC=CC=C1)N1N=CN=C1)=O)C | C16H21N3O2
